US05519138
2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-3-methoxybenzyl]-6-dimethylaminocarbonylamino-benzimidazole
Prepared analogously to Example 1b from 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-3-methoxybenzyl]-6-dimethylaminocarbonylamino-benzimidazole and 2N sodium hydroxide solution in ethanol.

reactant | 2-n-butyl-1-[4-[(α-ethoxycarbonyl)benzyloxy]-3-methoxybenzyl]-6-dimethylaminocarbonylamino-benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC(=C(C=C1)OC(C1=CC=CC=C1)C(=O)OCC)OC)C=C(C=C2)NC(=O)N(C)C | C32H38N4O5
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-n-Butyl-1-[4-[(α-carboxy)benzyloxy]-3-methoxybenzyl]-6-dimethylaminocarbonylamino-benzimidazole | C(CCC)C1=NC2=C(N1CC1=CC(=C(C=C1)OC(C1=CC=CC=C1)C(=O)O)OC)C=C(C=C2)NC(=O)N(C)C | C30H34N4O5
